US09290468B2
Step 2: N-(2,3-dihydroxypropoxy)-4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxamide
To a solution of N-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)-4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxamide (60 mg, 0.11 mmol) in CH2Cl2 (10 mL) was added 1.0 N HCl (aq., 1 mL, 1.0 mmol). The mixture was stirred for 1 h and neutralized with saturated sodium bicarbonate (aq.). The aqueous layer was extracted by CH2Cl2 (10 mL×2). The combined organic layers were washed by water (10 mL) and brine (10 mL) sequentially, dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by column chromatography on silica gel (CH2Cl2/MeOH, 20:1, v/v) to afford the desired product (yellow solid, 41 mg, 61.5% yield for two steps). 1H NMR (400 MHz, CD3OD): δ 11.13 (s, 1H), 8.59 (s, 1H), 7.66 (d, 1H), 7.34 (dd, 1H), 6.76 (m, 1H), 3.79 (m, 1H), 3.71 (m, 2H), 3.35 (m, 2H). MS APCI (+) m/z: m/z 492.8, [M+H].

reactant | N-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)-4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxamide | 0.11 mmol, 60 mg | CC1(OCC(O1)CONC(=O)C1=CC2=C(N=NS2)C(=C1NC1=C(C=C(C=C1)Br)Cl)F)C | C19H17BrClFN4O4S
reactant | HCl | 1.0 mmol, 1.0 N, 1 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(2,3-dihydroxypropoxy)-4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxamide | 41 mg, 61.5% yield | OC(CONC(=O)C1=CC2=C(N=NS2)C(=C1NC1=C(C=C(C=C1)Br)Cl)F)CO | C16H13BrClFN4O4S
